* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE02\LTspice\COMB00op.asc
Vcc A 0 {Vcc}
R1 C 0 {R1}
D§LED B C D3
D1 A B D1
D2 A B D2
.model D D
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.param Vcc=2.500e+01 R1=1.200e+02
.model D1 D(Is=1.000e-14 n=1.200e+00)
.model D2 D(Is=2.000e-14 n=2.000e+00)
.model D3 D(Is=2.000e-14 n=1.400e+00)
.meas vd param v(A)-v(B)
.meas vled param v(B)-v(C)
.meas pled param I(LED)*vled
.backanno
.end
